US07053089B2
A mixture of [1-(2-phenyl-ethenesulfonyl)-piperidin-4-ylmethyl]-carbamic acid benzyl ester (2.5 g), 20% palladium hydroxide (1 g) on carbon, 200 mL of methanol and 50 mL of tetrahydrofuran were shaken under 50 psi of hydrogen for 2 days at room temperature. The catalyst was filtered off and washed with 250 mL of methanol. Concentration under reduced pressure gave C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine as white solid.

reactant | [1-(2-phenyl-ethenesulfonyl)-piperidin-4-ylmethyl]-carbamic acid benzyl ester | 2.5 g | C(C1=CC=CC=C1)OC(NCC1CCN(CC1)S(=O)(=O)C=CC1=CC=CC=C1)=O | C22H26N2O4S
reactant | methanol | 200 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 1 g | [OH-].[Pd+2].[OH-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
